US07153963B2
Referencial Example 2 2-bromo-6-chlorobenzoic acid
The mixture of 500 mg of 3-bromochlorobenzen and 3 ml of tetrahydrofuran was cooled down to −78° C. and 1.3 ml of 2.0M lithium diisopropylamide heptane/tetrahydrofuran/ethylbenzene was added. After stirring it for 2 hours, the mixture was put into dry ice and washed and extracted as described in Referential Example 1 to obtain a crude material. The crude material was washed with a mixed solvent of hexane-ethyl acetate to obtain the said compound.

reactant | 3-bromochlorobenzen | 500 mg | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | lithium diisopropylamide heptane tetrahydrofuran ethylbenzene | 2.0M, 1.3 ml | CCCCCCC.C(C)(C)[N-]C(C)C.[Li+].O1CCCC1.C(C)C1=CC=CC=C1
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-bromo-6-chlorobenzoic acid | BrC1=C(C(=O)O)C(=CC=C1)Cl | C7H4BrClO2
